US05349057
19 parts of cyanuric chloride are dispersed in 200 parts of ice water, and 18.8 parts of 1,3-diaminobenzene-4-sulfonic acid are added. The mixture is initially stirred at 0° to 5° C. and a pH of 2.5 for two hours and then at 0° to 5° C. and a pH of 4 for 30 minutes, and 4.25 parts of cyanamide are then added. The pH is brought to 10 by means of aqueous sodium hydroxide solution, the mixture is gradually heated to 50° to 60° C., stirred in this temperature range and at this pH for about 90 minutes, and then brought to a pH of 7 by means of hydrochloric acid. The 2-sulfo-5-(2'-chloro-4'-cyanamido-s-triazin-6-yl)aminoaniline compound thus obtained is diazotized directly in its synthesis solution in the usual manner by first adding 20 parts by volume of an aqueous 5N sodium nitrite solution and adding the mixture slowly to a mixture of 50 parts by volume of aqueous concentrated hydrochloric acid and 600 parts of ice. Stirring is continued for 2 hours, excess nitrous acid is destroyed, if necessary, by means of sulfamic acid, and the diazonium salt suspension obtained is then added to an aqueous solution of 36.2 parts of 1-[4'-(β-sulfatoethylsulfonyl)phenyl]-3-methyl-5-pyrazolone; the coupling reaction is carried out at 15° to 25° C. and a pH of 4.5 to 5.5, and the synthesis solution is then clarified at 40° to 50° C. by means of kieselguhr and filtration.

reactant | cyanuric chloride | N1=C(Cl)N=C(Cl)N=C1Cl | C3Cl3N3
reactant | 1,3-diaminobenzene-4-sulfonic acid | NC1=CC(=C(C=C1)S(=O)(=O)O)N | C6H8N2O3S
reactant | cyanamide | N#CN | CH2N2
reactant | sodium hydroxide | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
product | 2-sulfo-5-(2'-chloro-4'-cyanamido-s-triazin-6-yl)aminoaniline | S(=O)(=O)(O)C1=C(N)C=C(C=C1)NC1=NC(=NC(=N1)Cl)NC#N | C10H8ClN7O3S
